US05643872
b) Asp(O-cHex)-Man(4-MBzl)
Boc-Asp(O-cHex)-Man(4-MBzl) (52 g) was treated with 50% TFA/methylene chloride (400 mL) for 45 min at room temperature. The solvent was evaporated and chased several times with methylene chloride to eliminate traces of TFA. The product precipitated as its TFA salt upon addition of ether. The solid was collected and air dried to yield a white solid (46.7 g, 88%).

reactant | Boc-Asp(O-cHex) Man(4-MBzl) | 52 g | N([C@@H](CC(OC1CCCCC1)=O)C(=O)O)C(=O)OC(C)(C)C.OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO
solvent | TFA methylene chloride | 400 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | Asp(O-cHex) Man(4-MBzl) | 46.7 g, 88% | N[C@@H](CC(OC1CCCCC1)=O)C(=O)O.OC1[C@@H](O)[C@@H](O)[C@H](OCC2=CC=C(C)C=C2)[C@H](O1)CO | InChI=1S/C14H20O6.C10H17NO4/c1-8-2-4-9(5-3-8)7-19-13-10(6-15)20-14(18)12(17)11(13)16;11-8(10(13)14)6-9(12)15-7-4-2-1-3-5-7/h2-5,10-18H,6-7H2,1H3;7-8H,1-6,11H2,(H,13,14)/t10-,11-,12+,13-,14?;8-/m10/s1
